US08686024B2
Synthesis of indolin-5-yl 4-dimethylaminophenylcarbamate
The title compound was synthesized from 1-benzylindolin-5-yl 4-dimethylaminophenylcarbamate (30 mg, 77 μmol) using the same procedure employed for Example 123 (silica gel column chromatography: chloroform/methanol=99/1 to 90/10). The product was obtained as a white solid (4.0 mg, 17%) having the following characteristics.

reactant | 1-benzylindolin-5-yl 4-dimethylaminophenylcarbamate | 77 μmol, 30 mg | CN(C1=CC=C(C=C1)NC(OC=1C=C2CCN(C2=CC1)CC1=CC=CC=C1)=O)C | C24H25N3O2
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | indolin-5-yl 4-dimethylaminophenylcarbamate | CN(C1=CC=C(C=C1)NC(OC=1C=C2CCNC2=CC1)=O)C | C17H19N3O2
